US08138197B2
Production of 1′-[(3-Phenyl-1-pyridin-2-yl-1H-thieno[2,3-c]pyrazol-5-yl)carbonyl]-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one
DMF (10 mL) and Et3N (1 mL) were added to 3-phenyl-1-pyridin-2-yl-1H-thieno[2,3-c]pyrazole-5-carboxylic acid (160 mg), 6-tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride (190 mg), EDCI (120 mg) and HOBT (90 mg), heated at 50° C. and stirred overnight. This was further stirred at 110° C. for 1 hour, then restored to room temperature, diluted with water, and its pH was adjusted at 1.5 with 1 N HCl added thereto. The formed crystal was taken out through filtration, washed with water, n-hexane and water, and dried in vacuum at 60° C. to obtain the title compound as a pale brown power. 1H-NMR (400 MHz, DMSO-d6) δ: 8.62-8.57 (1H, m), 8.44 (1H, d, J=2.2 Hz), 8.26 (1H, dd, J=8.0, 2.2 Hz), 8.16-8.06 (4H, m), 7.92 (1H, s), 7.55 (2H, t, J=8.0 Hz), 7.50-7.45 (1H, m), 7.41-7.34 (2H, m), 4.30-4.20 (2H, br m), 3.53 (2H, s), 3.01 (2H, s), 2.12-2.04 (2H, br m), 1.95-1.84 (2H, br m). MS [M+H]+=589.

reactant | 3-phenyl-1-pyridin-2-yl-1H-thieno[2,3-c]pyrazole-5-carboxylic acid | 160 mg | C1(=CC=CC=C1)C=1C2=C(N(N1)C1=NC=CC=C1)SC(=C2)C(=O)O | C17H11N3O2S
reactant | spiro[chroman-2,4′-piperidin]-4-one hydrochloride | 190 mg | Cl.N1CCC2(CC1)OC1=CC=CC=C1C(C2)=O
reactant | EDCI | 120 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 90 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HCl | 1 N | Cl | ClH
solvent | water | O | H2O
solvent | Et3N | 1 mL | CCN(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1′-[(3-Phenyl-1-pyridin-2-yl-1H-thieno[2,3-c]pyrazol-5-yl)carbonyl]-6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one | C1(=CC=CC=C1)C=1C2=C(N(N1)C1=NC=CC=C1)SC(=C2)C(=O)N2CCC1(CC2)OC2=CC=C(C=C2C(C1)=O)C1=NN=NN1 | C31H24N8O3S
